US04772600
2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of N-[2-[(2-amino-2-oxoethyl)amino]-3-pyridinyl]-3-chlorobenzamide (8.7 g, 0.029 mole) in 200 ml of ethylene glycol was heated at 190° C. for 40 minutes. The reaction mixture was allowed to cool to room temperature and filtered. The filtrate was diluted with water to produce a white precipitate. The mixture was refrigerated and the precipitate was filtered, washed with water, and dried under high vacuum at room temperature overnight, then at 60° C. for 6 hrs. The sample was recrystallized from methanol-water (~40/60) and refrigerated. The crystalline precipitate was filtered, washed with water, and dried under high vacuum at room temperature overnight. The sample was redried under high vacuum at 60° C. overnight to give 5.48 g (66%) of title compound, mp. 245°-47° C.

reactant | N-[2-[(2-amino-2-oxoethyl)amino]-3-pyridinyl]-3-chlorobenzamide | 0.029 mole, 8.7 g | NC(CNC1=NC=CC=C1NC(C1=CC(=CC=C1)Cl)=O)=O | C14H13ClN4O2
solvent | ethylene glycol | 200 ml | C(CO)O | C2H6O2
product | 2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 5.48 g, 66% | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N | C14H11ClN4O
